US04777269
A 2-neck-flask provided with a drying tube and a dropping means in a water bath of a temperature of from 20° to 25° C. is charged with 1 mmol coumarin, and 60 ml of dioxane are added while stirring (with a magnetic stirrer) to dissolve the coumarin. Then 1,1 mmol pyridine are added while stirring, whereby a precipitate of a pyridine-aminocoumarin-complex is formed. Then 1,1 mmol phenylacetyl chloride, dissolved in 2 ml dioxane, are added dropwise within 2 minutes. The reaction mixture is stirred for 3 hours and then poured on an equal amount of ice, the mixture is acidified with 32% HCl until no more precipitate is formed. After the dissolution of the ice further HCl is added until no more precipitate is formed, then it is filtered using a sucking filter and washed with ice-cooled water until the filtrate is neutral. The obtained amide is twice recrystallized from ethanol (about 150 ml for PMC and about 30 ml for PFC) and dried sharply. The obtained coumarinyl derivatives have to be stored in a refrigerator under anhydrous and light-schielded conditions. The yields were 67 to 77% for PMC and 52 to 57% for PFC.

reactant | coumarin | 1 mmol | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
reactant | pyridine | 1,1 mmol | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | pyridine aminocoumarin | N1=CC=CC=C1.NC=1C(OC2=CC=CC=C2C1)=O | InChI=1S/C9H7NO2.C5H5N/c10-7-5-6-3-1-2-4-8(6)12-9(7)11;1-2-4-6-5-3-1/h1-5H,10H2;1-5H
